US07030145B2
Part E. 4-(2-Bromo-6-methylpyridine-3-sulfonyl)-phenol
2-Chloro-3-(4-methoxybenzenesulfonyl)-6-methylpyridine (4.74 g, 15.92 mmol) was suspended in HBr (84 mL, 48%). The orange reaction mixture was heated at 110° C. for 24 h. The reaction mixture was cooled to rt, diluted with H2O, and was treated with Na2CO3 until neutral. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to afford a colorless solid (3.22 g, 62% yield) which was used without further purification: mp 99–102° C.; 1H NMR (300 MHz, CDCl3) δ 8.52 (d, J=7.7 Hz, 1H), 7.86 (d, J=8.8 Hz, 2H), 7.35 (d, J=8.0 Hz, 1H), 6.95 (d, J=9.1 Hz, 2H), 2.63 (s, 3H); LRMS (APCI) m/z 328.0 [(M+H)+, calcd for C12H11NO3BrS, 328.0].

reactant | 2-Chloro-3-(4-methoxybenzenesulfonyl)-6-methylpyridine | 15.92 mmol, 4.74 g | ClC1=NC(=CC=C1S(=O)(=O)C1=CC=C(C=C1)OC)C | C13H12ClNO3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HBr | 84 mL | Br | BrH
solvent | H2O | O | H2O
product | 4-(2-Bromo-6-methylpyridine-3-sulfonyl)-phenol | 3.22 g, 62% yield | BrC1=NC(=CC=C1S(=O)(=O)C1=CC=C(C=C1)O)C | C12H10BrNO3S
